US06040309
Ethyl 6-(benzyloxy)-3-(phenylsulfanyl)benzo[b]thiophene-2-carboxylate
1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU--0.39 ml, 2.5 mmol) was added to a mixture of ethyl 6-(benzyloxy)-3-chlorobenzo[b]thiophene-2-carboxylate (Preparation 8, 800 mg, 2.3 mmol) and thiophenol (0.47 ml, 4.6 mmol) in dimethylformamide (4 ml) under a nitrogen atmosphere. The solution was heated to 60° C. for 6 hours and then partitioned between diethyl ether and water. The organics were separated and washed with water, dried (magnesium sulfate) and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using a mixture of 20% dichloromethane and 80% hexane, then 50% dichloromethane and 50% hexane as eluant. The isolated product was crystallised from diisopropyl ether and hexane to give the title compound as a colourless solid (810 mg).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 2.5 mmol, -0.39 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 6-(benzyloxy)-3-chlorobenzo[b]thiophene-2-carboxylate | 2.3 mmol, 800 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2Cl)C(=O)OCC)C1 | C18H15ClO3S
reactant | thiophenol | 4.6 mmol, 0.47 ml | C1(=CC=CC=C1)S | C6H6S
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-(benzyloxy)-3-(phenylsulfanyl)benzo[b]thiophene-2-carboxylate | 810 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2SC2=CC=CC=C2)C(=O)OCC)C1 | C24H20O3S2
